US05344835
3-(Diphenylmethoxymethyl)piperidine
Trifluoroacetic acid (20 ml) was added cautiously to a vigorously stirred solution of piperidine-3-methanol (5.75 g, 50 mmol) in dichloromethane (20 ml) and the mixture treated with benzhydrol (9.2 g, 50 mmol) portionwise over 5 minutes, stirred at room temperature for 2 hours and evaporated. The residue was dissolved in dioxane (50 ml) and the solution treated with 4M aqueous sodium hydroxide solution (100 ml), stirred at room temperature for 2 hours, diluted with ether and water and the layers separated. The organic layer was washed with water and extracted into 2M hydrochloric acid. The acidic extract was washed with ether, basified with solid sodium carbonate, extracted into ether, washed with water, dried over magnesium sulphate and evaporated to give the title compound (4.31 g) as a pale yellow oil which was characterised by its 1H-NMR spectrum.

reactant | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | piperidine-3-methanol | 50 mmol, 5.75 g | N1CC(CCC1)CO | C6H13NO
reactant | benzhydrol | 50 mmol, 9.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(Diphenylmethoxymethyl)piperidine | 4.31 g | C1(=CC=CC=C1)C(OCC1CNCCC1)C1=CC=CC=C1 | C19H23NO
